US05958918
C. 2-[[1-(4-Cyanothiophene-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetamide
The tiltle compound is prepared as described in EXAMPLE 127, Part C, substituting 2-[[1-(4-cyanothiophene-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid for 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid. The title compound is obtained as a white foam.

reactant | 2-[[1-(4-cyanothiophene-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid | C(#N)C=1C=C(SC1)CN1C([C@H](CC1)N(CC(=O)O)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C23H21N3O6S2
reactant | [1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)CC(=O)O)=O | C23H21N3O6S2
product | 2-[[1-(4-Cyanothiophene-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetamide | C(#N)C=1C=C(SC1)CN1C([C@H](CC1)N(CC(=O)N)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C23H22N4O5S2
